US04072696
4 G. of 1-amino-2-nitro-4-n-butylthiobenzene is treated in 12 ml. concentrated hydrochloric acid with a solution of 24 g. stannous chloride in 12 ml. concentrated hydrochloric acid. The mixture is kept on the steam bath for 10 minutes, then cooled and the gummy product is washed with 12 ml. 6N hydrochloric acid. The salt is dissolved in water, treated with sodium hydroxide, and the mixture extracted with chloroform. Evaporation of the extracts followed by crystallation of the crude product from benzene yields 1,2-diamino-4-n-butylthiobenzene.

reactant | 1-amino-2-nitro-4-n-butylthiobenzene | NC1=C(C=C(C=C1)SCCCC)[N+](=O)[O-] | C10H14N2O2S
reactant | hydrochloric acid | Cl | ClH
product | 1,2-diamino-4-n-butylthiobenzene | NC1=C(C=C(C=C1)SCCCC)N | C10H16N2S
